***************************************** 
*** NAND3
***************************************** 
.SUBCKT NAND3 A B C Vdd Vss Y
*.PININFO A:I B:I C:I Vdd:I Vss:I Y:O
MM5 Y C Vdd Vdd p_18 W=2.8u L=180.00n m=1
MM4 Y B Vdd Vdd p_18 W=2.8u L=180.00n m=1
MM3 Y A Vdd Vdd p_18 W=2.8u L=180.00n m=1
MM2 net32 C Vss Vss n_18 W=1.8u L=180.00n m=1
MM1 net36 B net32 Vss n_18 W=1.8u L=180.00n m=1
MM0 Y A net36 Vss n_18 W=1.8u L=180.00n m=1
.ENDS

***************************************** 
*** NAND2
***************************************** 
.SUBCKT NAND2 A B Vdd Vss Y
*.PININFO A:I B:I Vdd:I Vss:I Y:O
MM2 Y B Vdd Vdd p_18 W=2.8u L=180.00n m=1
MM1 Y A Vdd Vdd p_18 W=2.8u L=180.00n m=1
MM4 net9 B Vss Vss n_18 W=1.2u L=180.00n m=1
MM0 Y A net9 Vss n_18 W=1.2u L=180.00n m=1
.ENDS

***************************************** 
*** INV
***************************************** 
.SUBCKT INV In Out Vdd Vss
*.PININFO In:I Vdd:I Vss:I Out:O
MM1 Out In Vss Vss n_18 W=600.0n L=180.00n m=1
MM0 Out In Vdd Vdd p_18 W=2.8u L=180n m=1
.ENDS

***************************************** 
*** XNOR
***************************************** 
.SUBCKT XNOR A B Out Vdd Vss
*.PININFO In:I Vdd:I Vss:I Out:O
XNAND1 A B AB_out Vdd Vss NAND2

XNAND2 A AB_out Vx Vdd Vss NAND2

XNAND3 B AB_out Vy Vdd Vss NAND2

XNAND4 Vx Vy Vz Vdd Vss NAND2

XINV1 Vz out Vdd Vss INV

.ENDS


***************************************** 
*** latch
***************************************** 
.SUBCKT latch Din Dout RST_N Vdd Vss latch latch_bar
*.PININFO Din:I RST_N:I Vdd:I Vss:I latch:I latch_bar:I 
*.PININFO Dout:O
XI1 RST_N net11 Vss Vdd net33 / NAND2
XI2 net11 Dout Vdd Vss / INV
XI0 net37 net11 Vdd Vss / INV
MM2 net37 latch net33 Vdd p_18 W=2.5u L=180.00n m=1
MM1 Din latch_bar net37 Vdd p_18 W=2.5u L=180.00n m=1
MM3 net37 latch_bar net33 Vss n_18 W=2.5u L=180.00n m=1
MM0 Din latch net37 Vss n_18 W=2.5u L=180.00n m=1
.ENDS

***************************************** 
*** DFF
***************************************** 
.SUBCKT DFF C D Q Qbar RST_N Vdd Vss
*.PININFO C:I D:I RST_N:I Vdd:I Vss:I Q:O Qbar:O
XI15 net050 C RST_N Vdd Vss net054 / NAND3
XI16 net054 C net052 Vdd Vss net048 / NAND3
XI17 net048 D RST_N Vdd Vss net052 / NAND3
XI20 Q net048 RST_N Vdd Vss Qbar / NAND3
XI18 net054 Qbar Vdd Vss Q / NAND2
XI13 net052 net054 Vdd Vss net050 / NAND2
.ENDS

***************************************** 
*** 6 bits counter
***************************************** 
.SUBCKT counter6b B0 B1 B2 B3 B4 B5 CNT_CLK RST_N Vdd Vss
*.PININFO CNT_CLK:I RST_N:I Vdd:I Vss:I B0:O B1:O B2:O B3:O B4:O B5:O
XI14 Qbar4 net1 B5 net1 RST_N Vdd Vss / DFF
XI9 net43 Qbar4 B4 Qbar4 RST_N Vdd Vss / DFF
XI8 net50 net43 B3 net43 RST_N Vdd Vss / DFF
XI7 net57 net50 B2 net50 RST_N Vdd Vss / DFF
XI6 net64 net57 B1 net57 RST_N Vdd Vss / DFF
XI0 CNT_CLK net64 B0 net64 RST_N Vdd Vss / DFF
.ENDS

***************************************** 
*** pre-amplifier
***************************************** 
.SUBCKT pre_amp vdd vss CK vi1 vi2 vao1 vao2
M1 vao2 vi1 vx vss n_18 w=1.2u l=0.5u m=1
M2 vao1 vi2 vx vss n_18 w=1.2u l=0.5u m=1

M3 vx CK vss vss n_18 w=1.6u l=0.5u m=1

M4 vao2 CK vdd vdd p_18 w=0.5u l=0.5u m=1
M5 vao1 CK vdd vdd p_18 w=0.5u l=0.5u m=1

.ENDS
***************************************** 
*** regenerative_latch
***************************************** 
.SUBCKT regen_latch vdd vss CK CK_bar vao1 vao2 D D_bar
M6 m6d vlop vdd vdd p_18 w=2.2u l=0.5u m=1
M7 m7d vlon vdd vdd p_18 w=2.2u l=0.5u m=1

M8 vlon vao1 m6d vdd p_18 w=2.2u l=0.5u m=1
M9 vlop vao2 m7d vdd p_18 w=2.2u l=0.5u m=1

M10 vlon vlop vss vss n_18 w=0.5u l=0.5u m=1
M11 vlop vlon vss vss n_18 w=0.5u l=0.5u m=1

M12 vlon CK_bar vss vss n_18 w=0.5u l=0.5u m=1
M13 vlop CK_bar vss vss n_18 w=0.5u l=0.5u m=1

X_inv1 vdd vss vlon D INV
X_inv2 vdd vss vlop D_bar INV

.ENDS

***************************************** 
*** comparator with pre_amp + regenerative_latch
***************************************** 
.SUBCKT cmp_dyna_two_stage vdd vss vi1 vi2 CK CK_bar D D_bar 
X_pre_amp vdd vss CK vi1 vi2 vao1 vao2 pre_amp

X_regen_latch vdd vss CK CK_bar vao1 vao2 D D_bar regen_latch

.ENDS

***************************************** 
*** bootstrapped_switch
***************************************** 
.SUBCKT bootstrapped_switch Clks Clksb SH_out Vdd Vss input
*.PININFO Clks:I Clksb:I Vdd:I Vss:I input:I SH_out:O
CC0 net33 net20 500f

MM9 input net13 SH_out Vss n_18 W=7u L=180n m=1
MM8 net20 net13 input Vss n_18 W=3u L=180.00n m=1
MM7 net9 Clksb Vss Vss n_18 W=5.5u L=180.00n m=1
MM6 net13 Vdd net9 Vss n_18 W=2u L=180.00n m=1
MM5 net25 net13 net20 Vss n_18 W=1.7u L=180.00n m=1
MM2 net20 Clksb Vss Vss n_18 W=1.7u L=180.00n m=1
MM1 net25 Clks net20 Vss n_18 W=1.7u L=180.00n m=1
MM4 net13 net25 net33 net33 p_18 W=4.2u L=180.00n m=1
MM3 net33 net13 Vdd net33 p_18 W=4.2u L=180.00n m=1
MM0 net25 Clks Vdd Vdd p_18 W=4.2u L=180.00n m=1
.ENDS


************************************************************************************************
*** cmp ---------You must write the comparator you designed here.-------------------------------
************************************************************************************************ 

*comparator  -----------------------------------------

.SUBCKT cmp Vdd Vss Vb Vip Vin Vout



M1 Va Vip Ve Vss n_18 w=1u l=5u
M2 Vc Vin Ve Vss n_18 w=1u l=5u

M3 Vc Va Vdd Vdd p_18 w=1u l=5u
M5 Va Va Vdd Vdd p_18 w=1u l=5u

M4 Va Vc Vdd Vdd p_18 w=1u l=5u
M6 Vc Vc Vdd Vdd p_18 w=1u l=5u

M7 Vf Va Vdd Vdd p_18 w=2u l=5u 
M8 Vout Vc Vdd Vdd p_18 w=2u l=5u
M9 Vf Vf Vss Vss n_18 w=1u l=5u
M10 Vout Vf Vss Vss n_18 w=1u l=5u

Mb Ve Vb Vss Vss n_18 w=6u l=5u


*Ecom Vout Vss Vout2 Vss -1

.ENDS

***************************************** 
*** Single-slope AD
***************************************** 
.SUBCKT ssAD Vdd Vss Clks Clksb Clk_CNT CNT_EN CNT_ENb RST_N input ramp_in Vb
X_bootstrap_sw Clks Clksb SH_out Vdd Vss input bootstrapped_switch

Csample SH_out vss 2p

*********
* need a comparator here!!
* with postive node connect to "SH_out", 
*      negative node connect to 'ramp_in'
* output connect to 'cmp_out'
*********

X_cmp Vdd Vss Vb SH_out ramp_in cmp_out0 cmp

X_inv1 cmp_out0 cmp_out Vdd Vss INV

X_NAND3_CNT cmp_out Clk_CNT CNT_EN Vdd Vss CNT_trig NAND3

X_counter6b B0 B1 B2 B3 B4 B5 CNT_trig RST_N Vdd Vss counter6b

X_latch_b0 B0 D0 RST_N Vdd Vss latch latch_b latch
X_latch_b1 B1 D1 RST_N Vdd Vss latch latch_b latch
X_latch_b2 B2 D2 RST_N Vdd Vss latch latch_b latch
X_latch_b3 B3 D3 RST_N Vdd Vss latch latch_b latch
X_latch_b4 B4 D4 RST_N Vdd Vss latch latch_b latch
X_latch_b5 B5 D5 RST_N Vdd Vss latch latch_b latch

.ENDS
